US07183445B2
1-benzyloxy-4-ethynyl-benzene (70 g, 0.3365 mol), Bu3SnH (59 mL, 0.3365 mol) and Ph(PP3)2Cl2 (120 mg, 0.1718 mmol) were stirred in THF (500 mL) at 25° C. for 16 h and then refluxed for 1 h. The resulting solution was concentrated and then purified on SiO2 (2% ˜5% ethyl acetate/hexane) to yield tributyl-[1-(4-benzyloxy-phenyl)-vinyl]-stannane.

reactant | 1-benzyloxy-4-ethynyl-benzene | 0.3365 mol, 70 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C#C | C15H12O
reactant | Bu3SnH | 0.3365 mol, 59 mL | CCCC[SnH](CCCC)CCCC
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | tributyl-[1-(4-benzyloxy-phenyl)-vinyl]-stannane | C(CCC)[Sn](C(=C)C1=CC=C(C=C1)OCC1=CC=CC=C1)(CCCC)CCCC | InChI=1S/C15H13O.3C4H9.Sn/c1-2-13-8-10-15(11-9-13)16-12-14-6-4-3-5-7-14;3*1-3-4-2;/h3-11H,1,12H2;3*1,3-4H2,2H3;
